US07179912B2
A suspension of 1-(2,4,6-trihydroxyphenyl)-ethanone hydrate (5.0 g, 26.9 mmol), triethylamine (7.50 mL, 53.7 mmol) and crushed 4 Å molecular sieves was stirred in CH2Cl2 (250 mL). After 3 h, N-phenyltrifluoromethanesulfonimide (9.61 g, 26.9 mmol) was added in 10 portions (about 1 g each) over 5 hours. After 24 h, the reaction was filtered through a silica gel ¾″ (60 Å) plug, and the plug washed with 5% MeOH/CH2Cl2 (200 mL). The filtrate was concentrated under reduced pressure, and the resulting oil purified via Biotage chromatography eluting with 15% EtOAc/hexanes to yield 590 mg (73%) of trifluoro-methanesulfonic acid 4-acetyl-3,5-dihydroxy-phenyl ester. Rf=0.50 (30% EtOAc/hexanes).

reactant | 1-(2,4,6-trihydroxyphenyl)-ethanone hydrate | 26.9 mmol, 5.0 g | O.OC1=C(C(=CC(=C1)O)O)C(C)=O
reactant | triethylamine | 53.7 mmol, 7.50 mL | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 26.9 mmol, 9.61 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 4-acetyl-3,5-dihydroxy-phenyl ester | 590 mg, 73% | C(C)(=O)C1=C(C=C(C=C1O)OS(=O)(=O)C(F)(F)F)O | C9H7F3O6S
